US04745201
To a suspension of (R)-cysteine (40.0 g, 0.330 mole) in 400 ml of methanol maintained under nitrogen at -78° C. was added thionyl chloride (28 ml, 0.384 mole). The cysteine slowly dissolved to form a clear solution. The solution was stirred overnight at room temperature and then evaporated under vacuum to yield (R)-cysteine methyl ester hydrochloride as a colorless, sticky syrup (57.0 g, 100% yeild). The product solidified upon standing.

reactant | (R)-cysteine | 0.330 mole, 40.0 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | thionyl chloride | 0.384 mole, 28 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 400 ml | CO | CH4O
product | (R)-cysteine methyl ester hydrochloride | Cl.COC([C@@H](N)CS)=O | InChI=1S/C4H9NO2S.ClH/c1-7-4(6)3(5)2-8;/h3,8H,2,5H2,1H3;1H/t3-;/m0./s1
